US09340538B2
Step A: 5-fluoro-3′,5′-bis(trifluoromethyl)-[1,1′-biphenyl]-2-carbaldehyde
2-bromo-4-fluorobenzaldehyde (1.53 g, 7.5 mmol) was reacted with (3,5-bis(trifluoromethyl)phenyl)boronic acid (2.3 g, 9 mmol) according to the procedure as described in Example 56, Step A to give the title compound as a white solid (2.34 g, 92%). The compound was characterized by the following spectroscopic data:

reactant | 2-bromo-4-fluorobenzaldehyde | 7.5 mmol, 1.53 g | BrC1=C(C=O)C=CC(=C1)F | C7H4BrFO
reactant | (3,5-bis(trifluoromethyl)phenyl)boronic acid | 9 mmol, 2.3 g | FC(C=1C=C(C=C(C1)C(F)(F)F)B(O)O)(F)F | C8H5BF6O2
product | 5-fluoro-3′,5′-bis(trifluoromethyl)-[1,1′-biphenyl]-2-carbaldehyde | 2.34 g, 92% | FC1=CC=C(C(=C1)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=O | C15H7F7O
